US04404378
2-Aminocarbonyloxymethyl-6-methyl-4-(3-nitrophenyl)-3-ethoxycarbonyl-5-(β-ethoxyethoxy)carbonyl-1,4-dihydropyridine
2-Hydroxymethyl-6-methyl-4-(3-nitrophenyl)-3-ethoxycarbonyl-5-(β-ethoxyethoxy)carbonyl-1,4-dihydropyridine (420 mg) was dissolved in benzene (20 ml), chlorosulfonyl isocyanate (0.2 ml) was added thereto, and the mixture was reacted under stirring at room temperature for 30 minutes. Water (10 ml) was added to the reaction mixture under cooling, and the mixture was stirred at room temperature for 30 minutes for hydrolysis. The reaction mixture thus obtained was extracted with ethyl acetate, and the extracted solution was washed with water, dried and then concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether/hexane, whereupon crystals (290 mg, yield: 62.6%) were obtained.

reactant | 2-Hydroxymethyl-6-methyl-4-(3-nitrophenyl)-3-ethoxycarbonyl-5-(β-ethoxyethoxy)carbonyl-1,4-dihydropyridine | 420 mg | OCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOCC)C | C21H26N2O8
reactant | chlorosulfonyl isocyanate | 0.2 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Water | 10 ml | O | H2O
reactant | diisopropyl ether hexane | C(C)(C)OC(C)C.CCCCCC
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-Aminocarbonyloxymethyl-6-methyl-4-(3-nitrophenyl)-3-ethoxycarbonyl-5-(β-ethoxyethoxy)carbonyl-1,4-dihydropyridine | 290 mg, yield: 62.6% | NC(=O)OCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOCC)C | C22H27N3O9
